US07544690B2
To a solution of N2-(1-benzyl-piperidin-4-yl)-N4,N4-dimethyl-quinazoline-2,4-diamine (500 mg, 1.38 mmol) in MeOH (5 mL) was added 20% Pd(OH)2 (100 mg). The mixture was stirred at ambient temperature under hydrogen atmosphere for 1.5 hr, at 50° C. for 8 hr, at ambient temperature for 16.5 hr, filtered through a pad of celite, and concentrated. To a solution of the residue in CH2Cl2 (5 mL) was added diisopropylethylamine (510 μL, 2.93 mmol). The mixture was cooled to 4° C. and a solution of 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride (493 mg, 1.45 mmol) in CH2Cl2 (2 mL) was added below 5° C. The reaction mixture was stirred at 4° C. for 2 hr. The reaction was quenched with saturated aqueous NaHCO3 The aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (NH-silica gel, 33% EtOAc in hexane) to give N2-[1-(4-bromo-2-trifluoromethoxy-benzenesulfonyl)-piperidin-4-yl]-N4,N4-dimethyl-quinazoline-2,4-diamine (339 mg, 43%) as a pale yellow solid.

reactant | N2-(1-benzyl-piperidin-4-yl)-N4,N4-dimethyl-quinazoline-2,4-diamine | 1.38 mmol, 500 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C | C22H27N5
reactant | diisopropylethylamine | 2.93 mmol, 510 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 1.45 mmol, 493 mg | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
solvent | MeOH | 5 mL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | N2-[1-(4-bromo-2-trifluoromethoxy-benzenesulfonyl)-piperidin-4-yl]-N4,N4-dimethyl-quinazoline-2,4-diamine | 339 mg, 43% | BrC1=CC(=C(C=C1)S(=O)(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=N1)N(C)C)OC(F)(F)F | C22H23BrF3N5O3S
